US05464616
C. Sodium 6β-[(1,3-dithiolan-2-ylidene)(methoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate
Allyl 6β-[(1,3-dithiolan-2-ylidene)(methoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate (459 mg, 1 mmol) was dissolved in 0.25N sodium 2-ethylhexanoate/ethyl acetate solution (4 mL), and treated with triphenylphosphine (30 mg) and tetrakis(triphenylphosphine)palladium(0) (30 mg). The reaction mixture was stirred at room temperature for 2 h under a nitrogen atmosphere. The resulting precipitate was collected by filtration, washed with ethyl acetate and diethyl ether, and dried in vacuo to yield the title compound (368 mg, 84%) as a light yellow powder: 1H NMR (D2O) δ 1.40 and 1.50 (each 3H, s, C2 -(CH3)2), 3.25-3.45 (4H, m, SCH2CH2S), 3.69 (3H, s, OCH3), 4.13 (1H, s, C3 -H), 5.45-5.52 (2H, m, C5 -H and C6).

reactant | Allyl 6β-[(1,3-dithiolan-2-ylidene)(methoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate | 1 mmol, 459 mg | S1C(SCC1)=C(C(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)OCC=C)C1=O)C(=O)OC | C18H22N2O6S3
reactant | triphenylphosphine | 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate ethyl acetate | 0.25N, 4 mL | C(C)C(C(=O)[O-])CCCC.[Na+].C(C)(=O)OCC
catalyst | tetrakis(triphenylphosphine)palladium(0) | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Sodium 6β-[(1,3-dithiolan-2-ylidene)(methoxycarbonyl)acetamido]-2,2-dimethylpenam-3-carboxylate | 368 mg, 84% | S1C(SCC1)=C(C(=O)N[C@H]1[C@@H]2N(C(C(S2)(C)C)C(=O)[O-])C1=O)C(=O)OC.[Na+] | InChI=1S/C15H18N2O6S3.Na/c1-15(2)8(12(20)21)17-10(19)7(11(17)26-15)16-9(18)6(13(22)23-3)14-24-4-5-25-14;/h7-8,11H,4-5H2,1-3H3,(H,16,18)(H,20,21);/q;+1/p-1/t7-,8?,11-;/m1./s1
